US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (150 mg, 0.578 mmol), 2-(trifluoromethoxy)benzylamine (122 mg, 0.636 mmol), Pd2(dba)3 (49 mg, 0.0535 mmol), rac-BINAP (104 mg, 0.167 mmol) and NaOtBu (142 mg, 1.478 mmol) in DMA (5 mL) was heated at 85° C. for 1.5 h. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Chromatography on silica (EtOAc/hexanes) afforded 4-chloro-6-(2-trifluoromethoxy-benzylamino)-2H-phthalazin-1-one (41 mg) as a beige solid, 1H (400 MHz, d6-DMSO) δ: 4.50 (s, 2H), 6.78 (s, 1H), 7.16 (dd, 1H), 7.40 (m, 3H), 7.47 (d, 1H), 7.68 (t, 1H) m 7.95 (d, 1H), 12.37 (s, 1H) ppm; m/z (M+1) 369.86.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.578 mmol, 150 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 2-(trifluoromethoxy)benzylamine | 0.636 mmol, 122 mg | FC(OC1=C(CN)C=CC=C1)(F)F | C8H8F3NO
reactant | rac-BINAP | 0.167 mmol, 104 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 1.478 mmol, 142 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.0535 mmol, 49 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-(2-trifluoromethoxy-benzylamino)-2H-phthalazin-1-one | 41 mg | ClC1=NNC(C2=CC=C(C=C12)NCC1=C(C=CC=C1)OC(F)(F)F)=O | C16H11ClF3N3O2
